US06500964B2
A 400 mL reaction vessel fitted with a mechanical stirrer was charged with sorbitol (32 g, 0.18 mol), water (20 g), concentrated HCl (45 g) and dodecylbenzenesulfonic acid (0.4 g). After stirring for 10 min, 5-formylindan (29 g, 0.20 mol) was added. The mixture was stirred for 18 h, then neutralized with aqueous KOH. The solids were collected by filtration and washed with water and methanol to give Indan DBS as a white solid (14 g, 33% yield).

reactant | sorbitol | 0.18 mol, 32 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | HCl | 45 g | Cl | ClH
reactant | dodecylbenzenesulfonic acid | 0.4 g | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | C18H30O3S
reactant | 5-formylindan | 0.20 mol, 29 g | C(=O)C=1C=C2CCCC2=CC1 | C10H10O
reactant | KOH | [OH-].[K+]
solvent | water | 20 g | O | H2O
product | Indan | C1CCC2=CC=CC=C12 | C9H10
